US06486156B1
A mixture of methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(trifluoromethylsulphonyloxy)benzoate (1.17 g; 3 mmol), 2,4-difluorophenylboronic acid (0.52 g; 3.3 mmol), tetrakis(triphenylphosphine) palladium (0.14 g; 0.12 mmol), 2M aqueous sodium carbonate solution (4.5 ml), lithium chloride (0.25 g; 6 mmol) and ethanol (13 ml) in toluene (120 ml) was refluxed, under an argon atmosphere, for 8 hours. The mixture was extracted with ethyl acetate and purified by flash chromatography eluting with isopropanol/dichloromethane (3/97) to give methyl 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoate as a mixture of E and Z isomers.

reactant | methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(trifluoromethylsulphonyloxy)benzoate | 3 mmol, 1.17 g | N1(C=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F | C15H13F3N2O5S
reactant | 2,4-difluorophenylboronic acid | 3.3 mmol, 0.52 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 2M, 4.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 6 mmol, 0.25 g | [Cl-].[Li+]
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 0.12 mmol, 0.14 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | methyl 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoate | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=C(C=C(C=C1)F)F | C20H16F2N2O2
